US04309352
A solution of 5-methyl-1-undecen-5-ol (9.2 g., 0.05 mol) in acetone (100 ml) was cooled in a dry-ice-isopropanol bath while a stream of ozone was bubbling through it. When reaction was complete, excess ozone was expelled with oxygen and the reaction mixture was treated with Jones' reagent until an orange color persisted. Acetone was removed by evaporation and the residue was distributed between water and methylene chloride. The organic solution was separated, washed with water, and evaporated. The residue was distilled to give 4-methyl-4-decanolide (8.2 g., 89% yield; b.p. 108°-113°/0.5 torr).

reactant | 5-methyl-1-undecen-5-ol | 0.05 mol, 9.2 g | CC(CCC=C)(CCCCCC)O | C12H24O
reactant | ozone | O=[O+][O-] | O3
reactant | oxygen | O=O | O2
reactant | Jones' reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-methyl-4-decanolide | 8.2 g, 89% yield | CC1(CCC(=O)O1)CCCCCC | C11H20O2
